US09029366B2
4-Fluorobenzoyl chloride (0.36 mL, 3.04 mmol) was added to a stirred solution of 2-(benzyloxy)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine (0.71 g, 2.53 mmol) and triethylamine (0.65 mL, 3.8 mmol) in DCM (25 mL) under nitrogen at 0° C. The mixture was stirred at room temperature for 16 hours, diluted with a saturated solution of Na2CO3 and extracted with DCM. The organic layer was separated, dried (Na2SO4), filtered and the solvents evaporated in vacuo. The crude product was purified by flash column chromatography (silica; AcOEt in DCM 0/100 to 20/80). The desired fractions were collected, the solvents evaporated in vacuo and the residue triturated with DIPE to yield 2-(benzyloxy)-5-[(4-fluorophenyl)carbonyl]-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine (0.73 g, 83% yield) as a white solid. C20H18FN3O2. 1H NMR (400 MHz, CDCl3) δ ppm 4.10 (br. s., 4H), 4.73 (br. s., 2 H), 5.18 (s, 2 H), 5.50 (br. s., 1 H), 7.10-7.19 (m, 2 H), 7.29-7.35 (m, 1 H), 7.35-7.41 (m, 2 H), 7.41-7.46 (m, 2 H), 7.46-7.51 (m, 2 H).

reactant | 4-Fluorobenzoyl chloride | 3.04 mmol, 0.36 mL | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | 2-(benzyloxy)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine | 2.53 mmol, 0.71 g | C(C1=CC=CC=C1)OC1=NN2C(CNCC2)=C1 | C13H15N3O
reactant | triethylamine | 3.8 mmol, 0.65 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
solvent | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
product | 2-(benzyloxy)-5-[(4-fluorophenyl)carbonyl]-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine | 0.73 g, 83% yield | C(C1=CC=CC=C1)OC1=NN2C(CN(CC2)C(=O)C2=CC=C(C=C2)F)=C1 | C20H18FN3O2
